US04020177
Preparation of 8-Acetyl-12-hydroxy-13-(4-tert-butylphenoxy)tridecanoic Acid
A mixture of ethyl 8-acetyl-12,13-epoxytridecanoate (14.9 g., 0.05 mole), 4-tert-butylphenol (11.2 g., 0.075 mole), sodium hydroxide (7.0 g., 0.175 mole), water (30 ml.) and tetrahydrofuran (200 ml.) is stirred 4 hours at 40°-45°, 17 hours at 25° and one hour on the steam bath letting the tetrahydrofuran slowly boil away. The residue is treated with water and extracted with ether. The aqueous solution is acidified with hydrochloric acid. The oily product is taken up in ether. The ether is evaporated and the residue treated with a solution of 16.8 g. sodium bicarbonate in 275 ml. of water. The resulting solution is extracted twice with ether to remove the excess weakly acidic phenol. The aqueous solution is acidified, the product taken up in ether, washed with water and dried over sodium sulfate. The ether is evaporated leaving 10.2 g. of the crude title compound as a yellow viscous oil.

reactant | ethyl 8-acetyl-12,13-epoxytridecanoate | 0.05 mole, 14.9 g | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC1CO1 | C17H30O4
reactant | 4-tert-butylphenol | 0.075 mole, 11.2 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydroxide | 0.175 mole, 7.0 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 8-Acetyl-12-hydroxy-13-(4-tert-butylphenoxy)tridecanoic Acid | C(C)(=O)C(CCCCCCC(=O)O)CCCC(COC1=CC=C(C=C1)C(C)(C)C)O | C25H40O5
